US09260441B2
Step C: Ethyl (E)-4,4-difluoropent-2-enoate
Ethyl 4,4-difluoro-3-hydroxy-pentanoate (3.39 g, 0.0186 mol) was dissolved in THF (20 ml). Diphenyl-2-pyridylphosphin (7.37 g, 0.028 mol) was added followed after five minutes by di-tertbutylazodicarboxylate (2.83 g, 0.028 mol). The mixture was stirred for one hour at room temperature and left standing overnight. The mixture was acidified with trifluoroacetic acid (2 ml) and stirred for one hour at room temperature. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and 4N HCl. The phases were separated, the organic phase was washed with 1M HCl (4×), dried over magnesium sulfate and evaporated to dryness. After distillation at 2 mbar 5.99 g were obtained which still contained some solvent but were used directly in the next step.

reactant | Ethyl 4,4-difluoro-3-hydroxy-pentanoate | 0.0186 mol, 3.39 g | FC(C(CC(=O)OCC)O)(C)F | C7H12F2O3
reactant | Diphenyl-2-pyridylphosphin | 0.028 mol, 7.37 g | C1(=CC=CC=C1)P(C1=NC=CC=C1)C1=CC=CC=C1 | C17H14NP
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Ethyl (E)-4,4-difluoropent-2-enoate | FC(/C=C/C(=O)OCC)(C)F | C7H10F2O2
